US08835462B2
To a solution of tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.59 g, 7.49 mmol, 1.00 equiv) in THF (75 ml) was added tert-butyl (2-methylallyl) carbonate (2.58 g, 15.0 mmol, 2.00 equiv). This solution was degassed by placing under vacuum and backfilling with N2 (3×). To this solution were added dppf (0.830 g, 1.50 mmol, 0.200 equiv) and Pd2 dba3 (0.686 g, 0.749 mmol, 0.100 equiv). The resulting dark solution was heated to 55° C. (external temp) for 1 h, and then cooled to room temperature. The solution was concentrated and purified by automated silica gel column chromatography (4-16% acetone in hexanes) to provide tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-8-(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.68 g, 92%) as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.32-7.22 (m, 2H), 7.22-7.12 (m, 3H), 5.12 (dd, J=8.5, 6.6 Hz, 1H), 5.07-4.98 (m, 1H), 4.98-4.83 (m, 2H), 4.15-4.02 (m, 2H), 3.95 (d, J=11.8 Hz, 1H), 3.86 (dd, J=11.8, 8.5 Hz, 1H), 3.52 (d, J=10.7 Hz, 1H), 3.40 (dd, J=10.9, 6.0 Hz, 1H), 3.23 (t, J=8.8 Hz, 1H), 3.11 (dd, J=13.6, 3.3 Hz, 1H), 2.40 (t, J=12.5 Hz, 1H), 2.01 (d, J=5.6 Hz, 1H), 1.77 (s, 3H), 1.54-1.39 (m, 21H); 13C NMR (101 MHz, CDCl3) δ 169.97, 152.62, 141.78, 140.01, 129.25, 128.33, 126.02, 112.13, 84.93, 83.01, 75.89, 75.20, 70.96, 57.44, 47.00, 35.02, 27.92, 19.79, 18.97; ESIMS (m/z) 556.8 ([M+Na]+).

reactant | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 7.49 mmol, 3.59 g, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C25H37NO8
reactant | tert-butyl (2-methylallyl) carbonate | 15.0 mmol, 2.58 g, 2.00 equiv | C(OC(C)(C)C)(OCC(=C)C)=O | C9H16O3
solvent | THF | 75 ml | C1CCOC1 | C4H8O
catalyst | dppf | 1.50 mmol, 0.830 g, 0.200 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2 dba3 | 0.749 mmol, 0.686 g, 0.100 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-9-methyl-8-(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 3.68 g, 92% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(=C)C)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H43NO8
